US05792882
[D] 3-[3-(4Fluorophenoxy) phenyl]-2-cyclopenten-1-one:
A solution of 1-[3-(4-fluorophenoxy)phenyl]-1,4-pentanedione (19.03 g; 0.0665M) in 0.44M aqueous NaOH solution (300 ml) was refluxed for 24 hrs. After cooling, the residual solids were collected by filtration and dried to give 18 g (yield quant.) of the subtitle compound [D] as brown solids, which was used without further purification.

reactant | 1-[3-(4-fluorophenoxy)phenyl]-1,4-pentanedione | 0.0665M, 19.03 g | FC1=CC=C(OC=2C=C(C=CC2)C(CCC(C)=O)=O)C=C1 | C17H15FO3
solvent | NaOH | 0.44M, 300 ml | [OH-].[Na+]
product | 3-[3-(4Fluorophenoxy) phenyl]-2-cyclopenten-1-one | FC1=CC=C(OC=2C=C(C=CC2)C2=CC(CC2)=O)C=C1 | C17H13FO2
